US07101892B2
N-[(R)-2-Hydroxy-1-methoxycarbonylethyl]-(1S,4R)-2-azabicyclo[2.2.1]hept-5-ene (3.5 g, 0.018 mol) and triphenylphosphine (4.7 g, 0.018 mol) were dissolved in dichloromethane (50 ml) and diethyl azodicarboxylate was added dropwise. The mixture was stirred for 3 days. Hydrochloric acid (20 ml, 2M) was added and the acidic phase was washed with ether, then basified with sodium hydroxide (25 ml, 2M) and this was extracted with ether. The ethereal extract was treated with di(t-butyl)dicarbonate (3.9 g, 0.018 mol) and stirred for 12 h. The solution was concentrated in vacuo and the residue was purified by column chromatography on silica gel using 5–10% ether in i-hexane as eluant to afford (1S,4R)-2-tert-butoxycarbonyl-2-azabicyclo[2.2.1]hept-5-ene as a colourless oil (300 mg, 8%) which crystallised in the freezer.

reactant | N-[(R)-2-Hydroxy-1-methoxycarbonylethyl]-(1S,4R)-2-azabicyclo[2.2.1]hept-5-ene | 0.018 mol, 3.5 g | OC[C@H](C(=O)OC)N1[C@@H]2C=C[C@H](C1)C2 | C10H15NO3
reactant | triphenylphosphine | 0.018 mol, 4.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | Hydrochloric acid | 2M, 20 ml | Cl | ClH
reactant | di(t-butyl)dicarbonate | 0.018 mol, 3.9 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (1S,4R)-2-tert-butoxycarbonyl-2-azabicyclo[2.2.1]hept-5-ene | 300 mg, 8% | C(C)(C)(C)OC(=O)N1[C@@H]2C=C[C@H](C1)C2 | C11H17NO2
